US08183270B2
A solution of 5-(bromomethyl)-2-(trifluoromethyl)-1,3-thiazole [prepared in accordance with U.S. Pat. No. 5,338,856] (170 mg, 069 mmol) in 5 mL of ethanol was treated sodium methylthiolate (60 mg, 0.86 mmol) at room temperature. The reaction was complete in 10 min and so the solvent was carefully removed under reduced pressure (40 mmHg) without heating. The residue was partitioned between dichloromethane and dilute hydrochloric acid, washed with saturated brine and dried over sodium sulfate. The solvent was again carefully removed under reduced pressure (40 mmHg) without heating to yield 5-[methylthio)methyl]-2-(trifluoromethyl)-1,3-thiazole (140 mg; 96%) as a pale orange liquid: 1H NMR (CDCl3) δ 7.75 (s, 1H), 3.90 (s, 2H), 2.10 (s, 3H); GCMS (FID) m/z 213 (M+).

reactant | 5-(bromomethyl)-2-(trifluoromethyl)-1,3-thiazole | BrCC1=CN=C(S1)C(F)(F)F | C5H3BrF3NS
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(trifluoromethyl)-1,3-thiazole | 140 mg, 96% | FC(C=1SC=CN1)(F)F | C4H2F3NS
